US04698445
Following the procedure of Example 1, m-nitrobenzenesulfonyl chloride was reacted with N,N'-diisopropyl ethylene diamine to give N-(1-methylethyl)-N-[2-[(1-methylethyl)amino]ethyl]-3-nitrobenzene sulfonamide.

reactant | m-nitrobenzenesulfonyl chloride | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | N,N'-diisopropyl ethylene diamine | C(C)(C)NCCNC(C)C | C8H20N2
product | N-(1-methylethyl)-N-[2-[(1-methylethyl)amino]ethyl]-3-nitrobenzene sulfonamide | CC(C)N(S(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-])CCNC(C)C | C14H23N3O4S
